US09340538B2
Step B: Ethyl 4-(2-bromo-4-fluorophenyl)-6-(bromomethyl)-2-(4-(2-(isopropylamino)-2-oxoethyl)thiazol-2-yl)-1,4-dihydropyrimidine-5-carboxylate
Ethyl 4-(2-bromo-4-fluorophenyl)-2-(4-(2-(isopropylamino)-2-oxoethyl)thiazol-2-yl)-6-methyl-1,4-dihydropyrimidine-5-carboxylate (1.05 g, 2 mmol) was reacted with NBS (0.39 g, 2.2 mmol) according to the procedure as described in Example 1, Step B to give the title compound as a yellow solid (0.6 g, 50%). The compound was characterized by the following spectroscopic data:

reactant | Ethyl 4-(2-bromo-4-fluorophenyl)-2-(4-(2-(isopropylamino)-2-oxoethyl)thiazol-2-yl)-6-methyl-1,4-dihydropyrimidine-5-carboxylate | 2 mmol, 1.05 g | BrC1=C(C=CC(=C1)F)C1N=C(NC(=C1C(=O)OCC)C)C=1SC=C(N1)CC(=O)NC(C)C | C22H24BrFN4O3S
reactant | NBS | 2.2 mmol, 0.39 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
product | Ethyl 4-(2-bromo-4-fluorophenyl)-6-(bromomethyl)-2-(4-(2-(isopropylamino)-2-oxoethyl)thiazol-2-yl)-1,4-dihydropyrimidine-5-carboxylate | 0.6 g, 50% | BrC1=C(C=CC(=C1)F)C1N=C(NC(=C1C(=O)OCC)CBr)C=1SC=C(N1)CC(=O)NC(C)C | C22H23Br2FN4O3S
